US07491747B2
Preparation 1: 3-(4-fluorophenoxy)dihydrofuran-2-one
α-Bromobutyrolactone (12.4 g, 0.075 mol) is added to a mixture of 4-fluorophenol (5.6 g, 0.05 mol) and caesium carbonate (17.9 g, 0.055 mol) in acetone (100 ml). The reaction medium is refluxed for two hours. After cooling to room temperature, the reaction is filtered through a bed of Celite and the filtrate is evaporated. The oily residue is purified by flash chromatography (1/2 EtOAc/heptane) to give the expected product in the form of an oil (9.8 g, 87%).

reactant | α-Bromobutyrolactone | 0.075 mol, 12.4 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | 4-fluorophenol | 0.05 mol, 5.6 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | caesium carbonate | 0.055 mol, 17.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(4-fluorophenoxy)dihydrofuran-2-one | FC1=CC=C(OC2C(OCC2)=O)C=C1 | C10H9FO3
